US04031107
1-(Methylsulfonyloxy)-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine (20 milligrams) in 0.5 milliliter of acetone was treated with 0.1 gram of sodium iodide in 0.5 milliliter of acetone. The reaction mixture was shaken with ether and bicarbonate solution. The ether portion was dried over magnesium sulfate and evaporated, yielding 10 milligrams (about 73 percent) of 6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine.

reactant | 1-(Methylsulfonyloxy)-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | 20 milligrams | CS(=O)(=O)ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C8H5ClF3N3O3S
reactant | sodium iodide | 0.1 gram | [I-].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | bicarbonate | C([O-])(O)=O
solvent | acetone | 0.5 milliliter | CC(=O)C | C3H6O
solvent | acetone | 0.5 milliliter | CC(=O)C | C3H6O
product | 6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | 10 milligrams, about 73 percent | ClC=1C=C2C(=NC1)N=C(N2)C(F)(F)F | C7H3ClF3N3
